US08492378B2
2-methyl-5-[3-(5-oxazolyl)-1-benzofuran-5-yl]-1,3,4-oxadiazole
A suspension of 5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-carbaldehyde (500 mg, 2.19 mmol), p-toluenesulfonylmethyl isocyanide (471 mg, 2.41 mmol) and potassium carbonate (363 mg, 2.63 mmol) in methanol (10 mL) was heated under reflux for 7 hr. After cooling, the reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (tetrahydrofuran) and recrystallized from methanol to give the title compound (118 mg, yield 20%) as colorless crystals.

reactant | 5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-carbaldehyde | 2.19 mmol, 500 mg | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C=O)C1 | C12H8N2O3
reactant | p-toluenesulfonylmethyl isocyanide | 2.41 mmol, 471 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 2.63 mmol, 363 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-5-[3-(5-oxazolyl)-1-benzofuran-5-yl]-1,3,4-oxadiazole | 118 mg, yield 20% | CC=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CN=CO2)C1 | C14H9N3O3
